US07456175B2
2-(4-Ethyl-piperazin-1-yl)-pyridin-4-ylamine
A solution of 2.03 g (9 mmol) 1-ethyl-4-(4-nitro-pyridin-2-yl)-piperazine in 30 ml methanol was hydrogenated over 0.052 g Pd/C with 1 bar hydrogen for 3 h at room temperature. The mixture was filtered and evaporated to dryness to yield the title compound as yellow solid which was used without further purification (m/e): 207.1 (MH+; 100%).

reactant | 1-ethyl-4-(4-nitro-pyridin-2-yl)-piperazine | 9 mmol, 2.03 g | C(C)N1CCN(CC1)C1=NC=CC(=C1)[N+](=O)[O-] | C11H16N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | 0.052 g | [Pd] | Pd
product | 2-(4-Ethyl-piperazin-1-yl)-pyridin-4-ylamine | C(C)N1CCN(CC1)C1=NC=CC(=C1)N | C11H18N4
